US07572809B2
Similar procedure as described in example 10 was used, starting from (6-Benzyloxy-1-chloro-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and 2-propanol to give (6-benzyloxy-1-isopropoxy-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 419(MH+).

reactant | (6-Benzyloxy-1-chloro-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | C(C1=CC=CC=C1)OC=1C=C2C=C(N=C(C2=CC1OC)Cl)NC1=NNC(=C1)C | C21H19ClN4O2
solvent | 2-propanol | CC(C)O | C3H8O
product | (6-benzyloxy-1-isopropoxy-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | C(C1=CC=CC=C1)OC=1C=C2C=C(N=C(C2=CC1OC)OC(C)C)NC1=NNC(=C1)C | C24H26N4O3
